US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine (Compound 130)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(4-methoxyphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 96%). 1H NMR (200 MHz, CDCl3): δ 2.50 (s, 3H), 3.15-3.17 (m, 4H), 3.68-3.78 (m, 4H), 3.78 (s, 3H), 4.14 (s, 3H), 6.84-7.75 (m, 8H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine | 96% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C22H25N5O3
